US06007803
Synthesis of MAPTAC/N-Isopropylacrylamide/HEMA Terpolymer 18/63/18
To a 500 mL round-bottom, three-neck flask fitted with a thermocouple, reflux condenser, and septum was added 150 mL of isopropanol followed by 8.9 g of a 50% aqueous solution of N-(3-trimethylammoniopropyl)methacrylamide chloride, 15.3 g of N-iso-propylacrylamide, and 4.4 g of 2-hydroxyethylmethacrylate. The solution was purged with nitrogen for 1 hour and 0.5 g of AIBN was added. The mixture was purged for 15 min until all of the AIBN dissolved. The solution was heated to 75° C. under nitrogen for 16 hours.

reactant | N-(3-trimethylammoniopropyl)methacrylamide chloride | [Cl-].C[N+](CCCNC(C(=C)C)=O)(C)C
reactant | N-iso-propylacrylamide | 15.3 g | C(C)(C)NC(C=C)=O | C6H11NO
reactant | 2-hydroxyethylmethacrylate | 4.4 g | OCCOC(C(=C)C)=O | C6H10O3
solvent | isopropanol | 150 mL | C(C)(C)O | C3H8O
product | MAPTAC N-Isopropylacrylamide HEMA | CC(=C)C(=O)NCCC[N+](C)(C)C.[Cl-].C(C)(C)NC(C=C)=O.CC(=C)C(=O)OCCO | InChI=1S/C10H20N2O.C6H11NO.C6H10O3.ClH/c1-9(2)10(13)11-7-6-8-12(3,4)5;1-4-6(8)7-5(2)3;1-5(2)6(8)9-4-3-7;/h1,6-8H2,2-5H3;4-5H,1H2,2-3H3,(H,7,8);7H,1,3-4H2,2H3;1H
